US05047411
A mixture of 2-[2-{4-(3-ethylureido)-3-hydroxyphenyl}ethyl]-7-methylimidazo[1,2-a]pyridine (17.5 g) and polyphosphate ester (170 g) was stirred at 110° to 120° C. for one hour. The reaction mixture was dissolved in a mixture of ethyl acetate, tetrahydrofuran and water and the resultant solution was adjusted to pH 8.0 with potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The crude product obtained by concentration was purified by alumina column chromatography eluting with chloroform. The eluted fraction containing the desired product was evaporated to give 6-[2-(7-methylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-ethylaminobenzoxazole (1.41 g).

reactant | 2-[2-{4-(3-ethylureido)-3-hydroxyphenyl}ethyl]-7-methylimidazo[1,2-a]pyridine | 17.5 g | C(C)NC(NC1=C(C=C(C=C1)CCC=1N=C2N(C=CC(=C2)C)C1)O)=O | C19H22N4O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 6-[2-(7-methylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-ethylaminobenzoxazole | 1.41 g | CC1=CC=2N(C=C1)C=C(N2)CCC2=CC1=C(N=C(O1)NCC)C=C2 | C19H20N4O
